US08440830B2
To a solution of ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate (1 eq) in dry THF was added DMAP (0.1 eq) at 0° C. followed by (Boc)2O (2.0 eq.) and stirred overnight. Water was added to it and extracted with dichloromethane, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the desired 1-tert-butyl 2-ethyl 1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate.

reactant | ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 1 eq | N1C(=CC=2C1=CN=CC2)C(=O)OCC | C10H10N2O2
reactant | (Boc)2O | 2.0 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
catalyst | DMAP | 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-tert-butyl 2-ethyl 1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate | N1(C(=CC=2C1=CN=CC2)C(=O)OCC)C(=O)OC(C)(C)C | C15H18N2O4
